US05177106
5-(2,5-Dimethyl-4-nitrophenoxy)-2,2-dimethylpentanoic acid, methyl ester
A mixture of 16.7 g (100 mmol) of 4-nitro-2,5-xylenol, 24.5 g (110 mmol) of 5-bromo-2,2-dimethylvaleric acid, methyl ester (U.S. Pat. No. 4,665,226) and 15.3 g (110 mmol) of anhydrous potassium carbonate in 200 mL of acetonitrile is stirred at reflux for 18 hours overnight. The inorganic solid is removed, washed thoroughly with fresh acetonitrile and the filtrate is evaporated. The solid residue is stirred with a mixture of diethyl ether and 100 mL of 2N potassium hydroxide solution. The aqueous layer is removed and the organic layer washed with 50 mL of 2N potassium hydroxide solution, brine, dried, and evaporated. The crystalline residue is taken up in hexane (hot), treated with charcoal to assist in removal of some insoluble material, concentrated to 200 mL, and cooled to afford 18.2 g of the title compound as pale yellow needles; mp 73°-75° C.

reactant | 4-nitro-2,5-xylenol | 100 mmol, 16.7 g | [N+](=O)([O-])C=1C=C(C(=CC1C)O)C | C8H9NO3
reactant | 5-bromo-2,2-dimethylvaleric acid, methyl ester | 110 mmol, 24.5 g | BrCCCC(C(=O)OC)(C)C | C8H15BrO2
reactant | potassium carbonate | 110 mmol, 15.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 5-(2,5-Dimethyl-4-nitrophenoxy)-2,2-dimethylpentanoic acid, methyl ester | 18.2 g | CC1=C(OCCCC(C(=O)OC)(C)C)C=C(C(=C1)[N+](=O)[O-])C | C16H23NO5
